US04048148
A bishydrazone was used in Ex. 26. It may be prepared by refluxing (48 hr) 1,4-diacetylbenzene with excess hydrazine hydrate in 2B alcohol, then cooling the reaction mixture to yield the product, m.p. = 184° C (dec.). The dialdehyde used in Ex. 35 is prepared by first reducing the dimethyl ester of 1,2-bis(4-carboxyphenoxy)ethane with lithium aluminum hydride in tetrahydrofuran to form 1,2-bis(4-hydroxymethylphenoxy)ethane; m.p. = 174°-176° C. The latter is oxidized to the desired dialdehyde with ceric ammonium nitrate in glacial acetic acid/water following the general procedure described in J. Org. Chem. 32, 3865-8 (1967); m.p. = 112.5°-114° C.

reactant | 1,4-diacetylbenzene | C(C)(=O)C1=CC=C(C=C1)C(C)=O | C10H10O2
reactant | hydrazine hydrate | O.NN
reactant | 1,2-bis(4-carboxyphenoxy)ethane | C(=O)(O)C1=CC=C(OCCOC2=CC=C(C=C2)C(=O)O)C=C1 | C16H14O6
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,2-bis(4-hydroxymethylphenoxy)ethane | OCC1=CC=C(OCCOC2=CC=C(C=C2)CO)C=C1 | C16H18O4
